US07396844B1
Synthesis of t-butyl [(1S)-2-hydroxy-1-(4-iodobenzyl)ethyl]carbamate
0.56 ml (7.73 mmol) of thionyl chloride was added to 3 ml of methanol under cooling with ice. 450 mg (1.56 mmol) of L-4-iodophenylalanine was added to the resultant mixture, and they were heated under reflux for 2 hours. The solvent was evaporated. 0.52 ml (4.68 mmol) of N-methylmorpholine, 443 mg (2.03 mmol) of di-t-butyl carbonate and 10 ml of dichloromethane were added to the residue, and they were stirred for 19 hours. The reaction liquid was diluted with water. After the extraction with dichloromethane, the organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and then with saturated aqueous NaCl solution, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. 3 ml of methanol and 3 ml of tetrahydrofuran were added to the residue. 143 mg (3.78 mmol) of sodium borohydride was added to the resultant mixture, and they were stirred for 17 hours. The reaction liquid was slowly poured into 1 N hydrochloric acid. After the extraction with ethyl acetate, the organic layer was successively washed with water. 1 N hydrochloric acid, 1 N sodium hydroxide and saturated aqueous NaCl solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated. The residue was purified by the silica gel column chromatography to obtain the title compound.

reactant | thionyl chloride | 7.73 mmol, 0.56 ml | S(=O)(Cl)Cl | Cl2OS
reactant | L-4-iodophenylalanine | 1.56 mmol, 450 mg | C1=CC(=CC=C1C[C@@H](C(=O)O)N)I | C9H10INO2
reactant | N-methylmorpholine | 4.68 mmol, 0.52 ml | CN1CCOCC1 | C5H11NO
reactant | di-t-butyl carbonate | 2.03 mmol, 443 mg | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | sodium borohydride | 3.78 mmol, 143 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 3 ml | CO | CH4O
product | t-butyl [(1S)-2-hydroxy-1-(4-iodobenzyl)ethyl]carbamate | OC[C@H](CC1=CC=C(C=C1)I)NC(OC(C)(C)C)=O | C14H20INO3
